US06310203B1
3-(5-Ethylisoxazol-3-yl)-6-(pyrazin-2-yl)methyloxy-1,2,4-triazolo[3 4-a]phthalazine
The title-compound was prepared from 6-hydroxy-3-(5-ethylisoxazol-3-yl)-1,2,4-triazolo[3,4-a]phthalazine (prepared from 6-chloro-3-(5-ethylisoxazol-3-yl)-1,2,4-triazolo[3,4-a]phthalazine, Example 105 part c, using conditions described for the preparation of Intermediate 2) and 2-chloromethylpyrazine (prepared as described in Example 15 part a) using the procedure described in Example 15 part b, 1H NMR (360 MHz, CDCl3) δ 1.42 (3H, t, J=7.6 Hz, CH3), 2.94 (2H, q, J=7.6 Hz, CH2), 5.83 (2H, s, CH2), 6.84 (1H, s, Ar—H), 7.84 (1H, m, Ar—H), 7.98 (1H, m, Ar—H), 8.30 (1H, d, J=7.9 Hz, Ar—H), 8.60-8.64 (2H, m, 2 of Ar—H), 8.70 (1H, m, Ar—H), 9.15 (1H, d, J=1.3 Hz, Ar—H); MS (ES+) m/e 374 [MH]+; Anal. Found. C, 61.16; H, 3.79; N, 26.19. C19H15N7O2 requires C, 61.12; H, 4.05; N, 26.26%.

reactant | 6-hydroxy-3-(5-ethylisoxazol-3-yl)-1,2,4-triazolo[3,4-a]phthalazine | OC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)CC | C14H11N5O2
reactant | 6-chloro-3-(5-ethylisoxazol-3-yl)-1,2,4-triazolo[3,4-a]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)CC | C14H10ClN5O
reactant | 2-chloromethylpyrazine | ClCC1=NC=CN=C1 | C5H5ClN2
product | 3-(5-Ethylisoxazol-3-yl)-6-(pyrazin-2-yl)methyloxy-1,2,4-triazolo[3 4-a]phthalazine | C(C)C1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NC=CN=C2 | C19H15N7O2
